US09278950B2
Step 2. Ethyl 3-amino-7-ethoxy-1,8-naphthyridine-2-carboxylate
A solution of pyridine (0.13 mL, 1.6 mmol) and ethyl bromopyruvate (0.22 mL, 1.7 mmol) in EtOH (0.5 mL) was stirred at 70° C. in a sealed vial for 16 h. The reaction mixture was allowed to cool to ambient temperature and a solution of 2-amino-6-bromonicotinaldehyde (317 mg, 1.58 mmol) and pyridine (0.76 mL, 9.5 mmol) in EtOH (1 mL) was added. The reaction mixture then was heated at 100° C. in a sealed vial for 16 h. Pyrrolidine (0.26 mL, 3.2 mmol) was added, and stirring in the sealed vial was continued at 100° C. i for 16 h. The crude reaction mixture was purified by flash chromatography (40 g silica gel column, eluting with 0-100% EtOAc/hexanes) to afford the sub-title compound. LCMS (ESI) calc. for C13H16N3O3 [M+H]+: m/z=262.1. found: 262.0.

reactant | pyridine | 1.6 mmol, 0.13 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl bromopyruvate | 1.7 mmol, 0.22 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 2-amino-6-bromonicotinaldehyde | 1.58 mmol, 317 mg | NC1=C(C=O)C=CC(=N1)Br | C6H5BrN2O
reactant | pyridine | 9.5 mmol, 0.76 mL | N1=CC=CC=C1 | C5H5N
reactant | Pyrrolidine | 3.2 mmol, 0.26 mL | N1CCCC1 | C4H9N
reactant | EtOH | 0.5 mL | CCO | C2H6O
reactant | EtOH | 1 mL | CCO | C2H6O
product | Ethyl 3-amino-7-ethoxy-1,8-naphthyridine-2-carboxylate | NC=1C(=NC2=NC(=CC=C2C1)OCC)C(=O)OCC | C13H15N3O3
